US07135466B2
N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(4-nitrobenzoyl)thiourea
3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. Commercially available 4-nitro-1-benzenecarbonyl isothiocyanate (30 mg) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (78 mg, yield 95%).

reactant | 3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]aniline | 50 mg | ClC=1C=C(N)C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C17H15ClN2O3
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 4-nitro-1-benzenecarbonyl isothiocyanate | 30 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)N=C=S | C8H4N2O3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-Chloro-4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N′-(4-nitrobenzoyl)thiourea | 78 mg, yield 95% | ClC=1C=C(C=CC1OC1=CC=NC2=CC(=C(C=C12)OC)OC)NC(=S)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C25H19ClN4O6S
